2179-03-09 12:44:00 Physician Attending Progress Note
Chief Complaint: Hypotension, Tachycardia, Hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Feeling better after overnight volume resusitation.  Na up to 126
   Remains tachycardic with HR up to 100s-130s.
   24 Hour Events:
 INDWELLING PORT (PORTACATH) - START [**2179-3-9**] 12:10 AM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-9**] 08:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-9**] 12:43 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.9
C (96.6
   HR: 106 (106 - 139) bpm
   BP: 105/62(72) {105/62(72) - 105/62(72)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                    850 mL
                                                                  2,717 mL
   PO:
             480 mL
   TF:
   IVF:
                                                                     50 mL
                                                                  2,237 mL
   Blood products:
   Total out:
                                                                    980 mL
                                                                    850 mL
   Urine:
                                                                    500 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -130 mL
                                                                  1,867 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///29/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   10.8 g/dL
   268 K/uL
   95 mg/dL
   1.5 mg/dL
   29 mEq/L
   3.6 mEq/L
   88 mg/dL
   86 mEq/L
   126 mEq/L
   31.3 %
   1.0 K/uL
        [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
   WBC
   1.0
   1.0
   Hct
   32.3
   31.3
   Plt
   292
   268
   Cr
   1.6
   1.5
   TropT
   <0.01
   Glucose
   87
   95
   Other labs: PT / PTT / INR:11.3/34.4/0.9, CK / CKMB /
   Troponin-T:18/2/<0.01, Differential-Neuts:48.0 %, Band:14.0 %,
   Lymph:22.0 %, Mono:12.0 %, Eos:1.0 %, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL,
   PO4:4.0 mg/dL
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   69 yo F with metastatic breast cancer presents with vomiting, poor po
   intake and dyspnea and to be in acute renal failure with hyponatremia
   Hypotension/Tachycardia: BP stable but HR still elevated.  EKG c/w
   atrial tach.  Will give bolus LR rather than NS for now to avoid rapid
   overcorrection of Na.  Pericardial effusion small and not
   hemodynamically significant on bedside TTE
   Hyponatremia: Improving - management as above
   Renal Failure: Cr trending down with volume repletion
   Breast Ca: Will contact her outpatient oncology team
   Leukopenia: will follow for now
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2179-3-9**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2179-03-10 07:04:00 Physician Resident Progress Note
Chief Complaint:  substernal discomfort, fatigue
   24 Hour Events:
   No events overnight. Pt remained tachycardic, received 500 cc bolus of
   LR, tachycardia in 100-110s.
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-9**] 11:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-10**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.2
C (97.2
   HR: 116 (104 - 131) bpm
   BP: 109/55(69) {86/47(58) - 112/70(79)} mmHg
   RR: 18 (13 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.2 kg (admission): 51.5 kg
             Total In:
                                                                  4,053 mL
                                                                  1,019 mL
   PO:
                                                                    680 mL
             TF:
   IVF:
                                                                  3,373 mL
                                                                  1,019 mL
   Blood products:
   Total out:
                                                                  1,452 mL
                                                                    273 mL
   Urine:
                                                                  1,352 mL
                                                                    273 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,601 mL
                                                                    746 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///27/
   Physical Examination
   Gen: AOX3, lying back in bed, NAD
   HEENT: mmm
   Cards: tachy, rrr, no m/r/g
   Resp:CTAB
   Abd: soft, nt/nd, +BS
   Ext: WWP, no c/c/e
   Labs / Radiology
   311 K/uL
   10.2 g/dL
   96 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.4 mEq/L
   71 mg/dL
   93 mEq/L
   130 mEq/L
   30.7 %
   1.2 K/uL
        [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
                             [**2179-3-9**]  02:37 PM
                             [**2179-3-10**]  03:04 AM
   WBC
   1.0
   1.0
   1.2
   Hct
   32.3
   31.3
   30.7
   Plt
   292
   268
   311
   Cr
   1.6
   1.5
   1.3
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   87
   95
   96
   Other labs: PT / PTT / INR:11.3/34.4/0.9, CK / CKMB /
   Troponin-T:16/2/<0.01, Differential-Neuts:49.0 %, Band:18.0 %,
   Lymph:18.0 %, Mono:15.0 %, Eos:0.0 %, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
   69 yo F with metastatic breast cancer presents with vomitting, poor po
   intake and dyspnea and to be in acute renal failure with hyponatremia.
   .
   # Tachycardia:  Likely hypovolemic based on  her hydration status
   still dry, very thirsty.  HR in 120s -150.  PE is also a possibility
   and will keep this on the differential if not responsive to fluid.
   -          Bolus 1L NS over 1 hour
   -          Monitor HR
   # Hyponatremia/Acute renal failure: Based on exam and history, likely
   hypovolemic hyponatremia. Most likely Gi losses combined with third
   spacing in the setting of ascites. Must be care with correcting Na to
   avoid osmotic demylenation. Baseline Na is around 130, so FW deficit is
   about 6.6 L on admission and about 2.5 L since ED resusication. [**Month (only) 51**] be
   a component of underlying SIADH. Uremia is far out of proportion to Cr
   increase, which may represent patient's cachectic state.
   - Na this AM 130, hyponatremia resolved
   - No obvious infection and bandemia improving. Hold antibiotics for now
   .
   # Dyspnea: Likely related to hypovolemia. Now improved while lying in
   bed. LENI negative, and cant do CTA to rule out PA. Dyspnea has largely
   resolved, but Pt still tachycardic and w/ some chest pain.
   - F/[**Location 39**] CXR read
   - Repeat EKG in AM
   -  Consider eval for PE
   .
   # Hypotension: Likely due to poor po intake and nausea/vomitting.
   - Pt at baseline SBP this AM
   .
   # Leukpenia: Likely chemo related, as last dose was [**3-1**]. ANC 600 so not
   yet neutropenic.
   - Consider starting neupogen
   - Plan to transfer to OMED in AM for further management
   .
   # Hypothyroidism: Continue synthroid
   .
   # Breast cancer: Onc c/s in AM
   .
   # FEN: NS 100ccx1L, replete electrolytes, regular diet
   # Prophylaxis: Subcutaneous heparin, PPI
   # Access: peripherals, Indwelling Port (PortaCath) - [**2179-3-9**] 12:10
   AM
   # Communication: Patient
   # Code:  DNR/I (discussed with patient and HCP), and daughter HCP
   [**Name (NI) 13974**] [**Telephone/Fax (1) 13975**]
   # Disposition: ICU, w/ plan to transfer to OMED or [**Hospital Unit Name 1**] this am based
   on HR response

2179-03-10 10:34:00 Physician Attending Progress Note
Chief Complaint: Tachycardia, Renal Failure, Hyponatremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Pt still c/o of some sunxiphoid discomfort
   24 Hour Events:
 EKG - At [**2179-3-9**] 09:38 PM
   Continued bursts of tachycardia up to 150s --> EKG c/w atrial tach vs.
   sinus tach with PACs
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-10**] 08:51 AM
   Other medications:
   per ICU resdient note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: Chest pain, Tachycardia
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Nausea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-10**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 125 (104 - 139) bpm
   BP: 107/69(78) {86/47(58) - 112/73(79)} mmHg
   RR: 23 (13 - 24) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 53.2 kg (admission): 51.5 kg
             Total In:
                                                                  4,053 mL
                                                                  2,057 mL
   PO:
                                                                    680 mL
             TF:
   IVF:
                                                                  3,373 mL
                                                                  2,057 mL
   Blood products:
   Total out:
                                                                  1,452 mL
                                                                    353 mL
   Urine:
                                                                  1,352 mL
                                                                    353 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,601 mL
                                                                  1,704 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///27/
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), tachycardic
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, conversive
   Labs / Radiology
   10.2 g/dL
   311 K/uL
   96 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.4 mEq/L
   71 mg/dL
   93 mEq/L
   130 mEq/L
   30.7 %
   1.2 K/uL
        [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
                             [**2179-3-9**]  02:37 PM
                             [**2179-3-10**]  03:04 AM
   WBC
   1.0
   1.0
   1.2
   Hct
   32.3
   31.3
   30.7
   Plt
   292
   268
   311
   Cr
   1.6
   1.5
   1.3
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   87
   95
   96
   Other labs: PT / PTT / INR:11.3/34.4/0.9, CK / CKMB /
   Troponin-T:16/2/<0.01, Differential-Neuts:49.0 %, Band:18.0 %,
   Lymph:18.0 %, Mono:15.0 %, Eos:0.0 %, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:3.1 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 HYPOTENSION (NOT SHOCK)
   69 yo F with metastatic breast cancer presents with vomiting, poor po
   intake and dyspnea and to be in acute renal failure with hyponatremia
   Tachycardia: BP stable but continues to have runs of tachycardia.  Will
   bolus one additional L of NS.  Still not high suspicion for PE given
   lack of significant hypoxemia and respiratory distress, but since she
   has remained tachycardic and has active malignancy - will pursue CTA
   today in light of improed Cr.  NAC and bicarb prior to CT
   Hyponatremia: Continues to improve
   Renal Failure: Cr improved but not back down to baseline
   Breast Ca: Onology team aware and following -
   Leukopenia: coming up slightly
   Remainder of issues per ICU team.  Since not suitable for floor on OMED
   at the moment, will transfer to [**Hospital Ward Name **]/[**Hospital Unit Name 1**].
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2179-3-9**] 12:10 AM
   Prophylaxis:
   DVT: Hep sc
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2179-03-10 11:59:00 Physician Attending Progress Note
Chief Complaint: Hypotension
   Hypovolemia
   Tachycardia
   Breast Cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 EKG - At [**2179-3-9**] 09:38 PM
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-10**] 08:51 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Ear, Nose, Throat: Dry mouth
   Cardiovascular: Tachycardia
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Pain: [**2-25**] Mild
   Flowsheet Data as of  [**2179-3-10**] 11:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 120 (104 - 139) bpm
   BP: 103/63(73) {86/47(58) - 112/73(79)} mmHg
   RR: 27 (13 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 51.5 kg
             Total In:
                                                                  4,053 mL
                                                                  2,088 mL
   PO:
                                                                    680 mL
             TF:
   IVF:
                                                                  3,373 mL
                                                                  2,088 mL
   Blood products:
   Total out:
                                                                  1,452 mL
                                                                    353 mL
   Urine:
                                                                  1,352 mL
                                                                    353 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  2,601 mL
                                                                  1,735 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Clear : , No(t) Crackles : , No(t) Wheezes : , No(t)
   Rhonchorous: ), 95% on Room Air
   Abdominal: Soft, Distended, Tender: very mild and diffuse
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.2 g/dL
   311 K/uL
   96 mg/dL
   1.1 mg/dL
   27 mEq/L
   3.4 mEq/L
   71 mg/dL
   93 mEq/L
   130 mEq/L
   30.7 %
   1.2 K/uL
        [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
                             [**2179-3-9**]  02:37 PM
                             [**2179-3-10**]  03:04 AM
   WBC
   1.0
   1.0
   1.2
   Hct
   32.3
   31.3
   30.7
   Plt
   292
   268
   311
   Cr
   1.6
   1.5
   1.3
   1.1
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   87
   95
   96
   Other labs: PT / PTT / INR:11.3/34.4/0.9, CK / CKMB /
   Troponin-T:16/2/<0.01--3 sets negative, Differential-Neuts:49.0 %,
   Band:18.0 %, Lymph:18.0 %, Mono:15.0 %, Eos:0.0 %, Ca++:9.1 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Fluid analysis / Other labs: AG-10
   Imaging: LENI--no DVT seen
   CXR--no focal infiltrate
   CT Head--no bleed
   ECHO--no tamponade or effusion seen on exam
   ECG: ST wtih PAC's
   Assessment and Plan
   69 yo female with h/o Breast Cancer with peritoneal mets and now
   admitted with hypotension, hypovolemia and hyponatremia now with
   initial Rx with IVF for support in MICU on [**Hospital Ward Name 742**] where 5.5 liters
   of IVF was given overall.
   1)SHOCK--Hypovolemic Shock with associated renal failure which has
   shown substantial improvement with volume replacement
   -PRN fluid bolus as needed
   -Maintain even fluid balance today
   2)TACHYCARDIA-Differential diagnosis for sinus tach does include pain
   and anxiety but that is not obviously present.  She does have complaint
   of dyspnea and with sinus tachycardia certainly concern for PE has been
   raised and patient does have risk based upon malignancy--this is
   perhaps supported by mild tachypnea as well.  She, however, may still
   have a substantial component of hypovolemia.
   -Will provide fluid bolus
   -LENI is negative
   -Will look to room air ABG to evalaute for possible A-a gradient
   hypoxia
   -V/Q scan is certianly reasonable to consider in what is otherwise well
   preserved lung parenchyma
   3)Acute Renal Failure-Much improved wtih fluids given suggesting
   relatively minimal insult from ATN at this time.
   -Fluid bolus for poor urine output
   -Renal dose medications
   -Avoid nephrotoxic agents.
   4)Breast CA-
   -Continue nystatin
   -Pain control
lidocaine patch, Morphine  as needed
   -Monitor Ascites
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2179-3-9**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :DNR/DNI
   Total time spent: 35 minutes

2179-03-11 07:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - patient did not tolerate VQ scan - could not participated in the
   ventillation component and could not lay flat
   - Abdominal ultrasound confirmed moderate ascites (final read pending)
   - IVF boluses (500 cc x 2) given for low urine output
   - creatinine improved on pm labs (1.1 -> 0.9)
   - Spoke with daughter, requesting paracentesis, explanation of why she
   would have loculated ascites, wants to discuss suture removal of port
   with [**First Name8 (NamePattern2) 129**] [**Last Name (NamePattern1) 14021**] (IR PA)
   - we should discuss with [**First Name8 (NamePattern2) **] [**Last Name (NamePattern1) **] about possible palliative
   abdominal pleurex for frequent [**Doctor First Name 3619**]
   - bolused 500cc x 2 for low BP
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-10**] 04:11 PM
   Heparin Sodium - [**2179-3-11**] 12:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-11**] 07:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.7
C (98.1
   HR: 124 (116 - 147) bpm
   BP: 80/66(69) {80/58(65) - 115/72(82)} mmHg
   RR: 16 (15 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 51.5 kg
             Total In:
                                                                  4,869 mL
                                                                    306 mL
   PO:
             TF:
   IVF:
                                                                  4,869 mL
                                                                    306 mL
   Blood products:
   Total out:
                                                                    783 mL
                                                                    105 mL
   Urine:
                                                                    783 mL
                                                                    105 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,086 mL
                                                                    201 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///20/
   Physical Examination
   GEN: Cachectic F in NAD
   HEENT: dry MM
   NECK: flat JVP
   LUNGS: CTAB
   HEART: Tachy, regular, no m/r/g
   ABD: distended, ttp epigastrium, no rebound/guarding
   EXTREM: no edema
   Back: sacral decub ulcer, stage 3, measuring 1.5 cm x 1 cm. No e/o
   infection.
   NEURO: alert able to follow commands
   Labs / Radiology
   330 K/uL
   11.4 g/dL
   86 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   64 mg/dL
   101 mEq/L
   134 mEq/L
   35.3 %
   3.0 K/uL
        [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
                             [**2179-3-9**]  02:37 PM
                             [**2179-3-10**]  03:04 AM
                             [**2179-3-10**]  04:24 PM
                             [**2179-3-11**]  04:12 AM
   WBC
   1.0
   1.0
   1.2
   3.0
   Hct
   32.3
   31.3
   30.7
   35.3
   Plt
   292
   268
   311
   330
   Cr
   1.6
   1.5
   1.3
   1.1
   0.9
   1.2
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   87
   95
   96
   88
   86
   Other labs: PT / PTT / INR:11.3/34.4/0.9, CK / CKMB /
   Troponin-T:16/2/<0.01, Differential-Neuts:24.0 %, Band:32.0 %,
   Lymph:27.0 %, Mono:9.0 %, Eos:0.0 %, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Imaging: Abd U/S: IMPRESSION: Moderate amount of ascites with largest
   pocket seen within the right lower quadrant. Multiple septations are
   noted compatible with component of loculation of the fluid.
   Microbiology: Urine Cltx [**3-8**]: NG
   Blood Cltx [**3-8**]: NGTD
   Assessment and Plan
   69yo F with h/o metastatic breast CA admitted with dyspnea,
   tachycardia, hyponatremia, and hypotension.
   .
   #. Dyspnea:. As patient has high risk of PE with associated tachycardia
   attempted V/Q scan on [**3-10**] to r/o PE. Other possible cause might be
   infectious etiology, but CXR negative so bacterial PNA very unlikely.
   She is on chemotherapy so possible she could have PCP as well as viral
   bronchitis. CXR and exam do not suggest heart failure although BNP was
   elevated on admission. Consider also deconditioning in setting of poor
   po intake and chemo. Patient also has history of requiring frequent
   paracenteses since [**9-2**] (14 since that time)- dyspnea could also be d/t
   component of associated abdominal pain from known loculated ascites;
   also patient reports pain localized to epigastrium; although unlikely,
   will r/o pancreatitis in setting of n/v as well.
   - CTA chest with prehydration given that pt
s CP continues
   - f/u lipase/amylase
   - nothing on exam, lab, or cxr to suggest pna.
   .
   #. Tachycardia: Patient with baseline heart rate 110s-120s per notes
   from recent admission. This may be secondary to pain, malignancy.
   Current HRs higher than baseline suggesting other current cause.
   Possibilities include dehydration, supported by the fact that the
   tachycardia improves with IVF, PE, although patient is not hypoxic, and
   infection although patient has not been febrile.
   - EKG without acute change, largely normal TTE.
   - IVF bolus PRN
   - f/u blood cultures
   .
   #. Hyponatremia: Currently at 134 after fluid resusitation suggesting
   hypovolemia was cause. Likely this is from poor po intake, nausea, and
   vomiting secondary to chemotherapy. Has had in past and has been
   responsive to fluids then as well - thought secondary to dehydration.
   - Recheck sodium in pm to ensure hasnot changed to dramatically from
   this am
   - IVF as above
   - Consider urine lytes, osms if persists after IVF
   .
   #. Hypotension: Resolved after IVF so likely [**1-26**] hypovolemia.
   - Monitor today
   - IVF PRN
   .
   #. Acute renal failure: Initial creatinine 1.6 now downtrending to 0.9
   yesterday after aggressive IVF, slightly increased to 1.2 this morning.
   Likely [**1-26**] prerenal azotemia in setting of dehydration initially,
   slight bump today likely d/t third spacing of fluids with ascites.
   - Monitor creatinine daily
   - Dose meds for GFR
   - Avoid nephrotoxins
   .
   #Decubitus Ulcer: stage 3 1.5 cm decubitus sacral ulcer. Pt seen by
   wound care.
   -Appreciate wound care recs and will follow their instructions.
   .
   #. Breast Cancer: Oncology is following and will take her on OMED
   service when she is stable enough to be on the floor.
   - Follow up onc recs
   .
   #. Neutropenia: Likely from chemotherapy, trending up with WBC and HCT
   increased today.
   - Hold neupogen for now per onc recs
   - Monitor counts daily
   - Neutropenic precautions
   .
   #. Oral thrush:
   - Continue nystatin for thrush and morphine IR for pain control
   .
   #. Hypothyroidism: Continue patient's current levothyroxine.
   - Check TSH to ensure tachycardia not [**1-26**] hyperthyroidism (normal free
   t4 in [**Month (only) 25**] so unlikely)
   .
   #. FEN: IVF as above, K was repleted this am by MICU team, N-reg
   #. PPx: Hep SC, BM reg, Morphine IR pain control
   #. ACCESS: Port, 2 peripherals
   #. COMMUNICATION: with patient
   #. CODE: DNR/DNI
   #. DISPO: ICU pending improvement in tachycardia
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2179-3-9**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Patient
   Code status: DNR / DNI
   Disposition: ICU

2179-03-11 11:26:00 Physician Attending Progress Note
Chief Complaint: Tachycardia
   Hypovolemia with Hypotension
   Metastatic Breast Cancer
   Acute Renal Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 NUCLEAR MEDICINE - At [**2179-3-10**] 04:18 PM
   Ventilation scan. Unable to tol perfusion portion of scan
 NASAL SWAB - At [**2179-3-10**] 04:30 PM
   MRSA screen
   -Patient unable to maintain adequate tolerance of testing procedure and
   V/Q unable to be maintained.
   -Ultrasound with moderate ascites seen and with some loculations noted
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2179-3-10**] 04:11 PM
   Heparin Sodium - [**2179-3-11**] 08:25 AM
   Pantoprazole (Protonix) - [**2179-3-11**] 08:26 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-11**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.2
C (99
   Tcurrent: 36.1
C (96.9
   HR: 128 (116 - 147) bpm
   BP: 87/63(69) {80/58(64) - 111/72(82)} mmHg
   RR: 18 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 51.5 kg
             Total In:
                                                                  4,869 mL
                                                                    345 mL
   PO:
             TF:
   IVF:
                                                                  4,869 mL
                                                                    345 mL
   Blood products:
   Total out:
                                                                    783 mL
                                                                    115 mL
   Urine:
                                                                    783 mL
                                                                    115 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,086 mL
                                                                    230 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///20/
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.4 g/dL
   330 K/uL
   86 mg/dL
   1.2 mg/dL
   20 mEq/L
   4.2 mEq/L
   64 mg/dL
   101 mEq/L
   134 mEq/L
   35.3 %
   3.0 K/uL
        [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
                             [**2179-3-9**]  02:37 PM
                             [**2179-3-10**]  03:04 AM
                             [**2179-3-10**]  04:24 PM
                             [**2179-3-11**]  04:12 AM
   WBC
   1.0
   1.0
   1.2
   3.0
   Hct
   32.3
   31.3
   30.7
   35.3
   Plt
   292
   268
   311
   330
   Cr
   1.6
   1.5
   1.3
   1.1
   0.9
   1.2
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   87
   95
   96
   88
   86
   Other labs: PT / PTT / INR:11.3/34.4/0.9, CK / CKMB /
   Troponin-T:16/2/<0.01, Differential-Neuts:24.0 %, Band:32.0 %,
   Lymph:27.0 %, Mono:9.0 %, Eos:0.0 %, Ca++:9.2 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.3 mg/dL
   Imaging: ABD U/S--multiple septations with loculated effusion noted.
   Assessment and Plan
   69 yo female with metastatic breast cancer with substantial omental
   involvement and recurrent and persistent ascites.  She has maintained a
   stable but substantially elevated heart rate across time despite IVF
   balance being substantially positive.
   1)Tachycardia-patient with mild discomfort and persistent tachycardia.
   We do have some modest increase in RR in the setting of ascites but
   this is less likely all attributable to single source of chest wall
   restriction.  We are left with possible PE at this time.  Patient is 4
   liters positive across the past 24 hours.
   -Will have to continue with adequate fluid support in the setting of
   ascites and possible insensible losses
   -Will puruse CTA if tachycardia unable to resolve tachycardia with pain
   management and support of hypovolemia
   -Do have concern for risk of anticoagulation and risk in terms of renal
   failure with dye load
   2)Respiratory Distress-Modest increase in RR and with peristent O2
   requirement
   -Will have to discuss timing and strategy for paracentesis with primary
   oncology team and with regular drainage required indwelling catheter
   may be best path to pursue
   -Wean O2 as tolerated
   -WBC increased and with neutropenia improved may be reasonable time to
   move to fluid drainage.
   3)Breat Cancer
Metastatic
   -Palliative Rx as above with drainage of ascitic fluid intermittently
   required
   -Continue with pain control
   ICU Care
   Nutrition: PO as possible but has limited calorie intake to date
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2179-3-9**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer::
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :ICU
   Total time spent: 35 minutes

2179-03-12 08:07:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   - TSH, amylase and lipase wnl.
   - given 3 1L boluses [**3-11**], PM Cr 1.3 (1.2 in AM) then switched to NS at
   75/hr at MN.
   - IR order placed for peritoneal drainage catheter ([**First Name8 (NamePattern2) 129**] [**Last Name (NamePattern1) 14021**],
   PA), will be done on [**3-12**].
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium - [**2179-3-11**] 08:25 AM
   Pantoprazole (Protonix) - [**2179-3-12**] 07:41 AM
   Heparin Sodium (Prophylaxis) - [**2179-3-12**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-12**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 126 (111 - 133) bpm
   BP: 85/62(66) {79/49(59) - 112/75(83)} mmHg
   RR: 22 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 51.5 kg
             Total In:
                                                                  4,564 mL
                                                                    735 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  4,564 mL
                                                                    675 mL
   Blood products:
   Total out:
                                                                    355 mL
                                                                    181 mL
   Urine:
                                                                    355 mL
                                                                    181 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,209 mL
                                                                    554 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 97%
   ABG: ///18/
   Physical Examination
   Gen: elderly woman, thin, lying in bed, NAD
   Card: RRR, no m/r/g
   Pulm: CTAB
   Abd: moderately distended, soft, NT, minimal bowel sounds
   Ext: 1+ pitting edema to ankles b/l
   Neuro: mildly confused, A&Ox 2, inattentive
   Labs / Radiology
   395 K/uL
   10.4 g/dL
   94 mg/dL
   1.4 mg/dL
   18 mEq/L
   3.7 mEq/L
   72 mg/dL
   105 mEq/L
   136 mEq/L
   30.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
                             [**2179-3-9**]  02:37 PM
                             [**2179-3-10**]  03:04 AM
                             [**2179-3-10**]  04:24 PM
                             [**2179-3-11**]  04:12 AM
                             [**2179-3-11**]  02:48 PM
                             [**2179-3-12**]  04:04 AM
   WBC
   1.0
   1.0
   1.2
   3.0
   11.5
   Hct
   32.3
   31.3
   30.7
   35.3
   30.9
   Plt
   292
   268
   311
   330
   395
   Cr
   1.6
   1.5
   1.3
   1.1
   0.9
   1.2
   1.3
   1.4
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   87
   95
   96
   88
   86
   85
   94
   Other labs: PT / PTT / INR:11.3/34.4/0.9, CK / CKMB /
   Troponin-T:16/2/<0.01, Amylase / Lipase:18/9, Differential-Neuts:54.0
   %, Band:28.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:0.0 %, Ca++:9.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   69yo F with h/o metastatic breast CA admitted with dyspnea,
   tachycardia, hyponatremia, and hypotension.
   # Leukocytosis: Infection vs. inflammatory vs. medication. Patient with
   new leukocytosis to 11.5 today up from 3 yesterday. Afebrile, no
   abdominal pain, diarrhea/nausea/vomiting, but not taking PO
s and on
   admission patient did have some vomiting and abdominal pain. No upper
   respiratory symptoms, headache, or pain with urination, but with mild
   ongoing confusion and no recent head imaging. UA/Ucx & CXR negative.
   Normal lipase.
   - Send C. diff
   - F/u blood cx
   - Diagnostic para prior to peritoneal catheter placement to ensure no
   e/o of infection
   # Tachycardia: Patient with baseline heart rate 110s-120s per notes
   from recent admission. This may be secondary to pain, malignancy.
   Current HRs higher than baseline, possibilities include dehydration,
   PE, and less likely infection. EKG without acute change, largely normal
   TTE.
   - IVF bolus PRN
   - f/u blood cultures
   - CTA as above if persistent
   # Hyponatremia: Resolved with fluid resuscitation.
   - IVF as above
   - Consider urine lytes, osms if persists after IVF
   # Hypotension: Improves transiently with IVF so likely [**1-26**] hypovolemia,
   but despite significant IVF, blood pressure downtrending due to 3^rd
   spacing of fluids. This may be exacerbated by poor nutrition -> low
   albumin & low oncotic pressure.
   - Monitor today
   - Nutrition consult
   - IVF PRN
   # Acute renal failure: 1.4 despite IVF
s, likely [**1-26**] third spacing of
   fluids with ascites.
   - Monitor creatinine daily
   - Dose meds for GFR
   - Avoid nephrotoxins
   # Dyspnea: Resoved. Likely multifactorial given deconditioning,
   ascites, and abdominal pain.
   - If persistent tachycardia despite IVF resuscitation, CTA chest with
   prehydration
   - Peritoneal catheter placement today
   # Decubitus Ulcer: Stage III 1.5 cm decubitus sacral ulcer. Wound care
   are following.
   -Appreciate wound care recs and will follow their instructions.
   # Breast Cancer: Oncology is following and will take her on OMED
   service when she is stable enough to be on the floor.
   - Follow up onc recs
   # Neutropenia: Resolved. Likely from chemotherapy, but WBC 11.5 today.
   - Hold neupogen
   - Monitor counts daily
   - D/C Neutropenic precautions
   # Oral thrush:
   - Continue nystatin for thrush and morphine IR for pain control
   # Hypothyroidism: TSH 2.6.
   - Continue Levothyroxine
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2179-3-9**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: ICU consent signed
   Code status: DNR (do not resuscitate)
   Disposition: pending meeting with famiyl & Onc

2179-03-12 11:37:00 Physician Attending Progress Note
Chief Complaint:
   Dyspnea
   Tachycardia
   Ascites
   Breast Cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Peritoneal Catheter placed
   WBC increased significantly
   -IVF given with transient improvement but slow decline over past hours
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-3-12**] 07:41 AM
   Heparin Sodium (Prophylaxis) - [**2179-3-12**] 07:41 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2179-3-12**] 11:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.7
C (98.1
   HR: 123 (111 - 133) bpm
   BP: 100/61(70) {79/49(59) - 112/75(83)} mmHg
   RR: 19 (13 - 23) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 51.5 kg
   Height: 60 Inch
             Total In:
                                                                  4,564 mL
                                                                  1,799 mL
   PO:
             60 mL
   TF:
   IVF:
                                                                  4,564 mL
                                                                  1,739 mL
   Blood products:
   Total out:
                                                                    355 mL
                                                                    336 mL
   Urine:
                                                                    355 mL
                                                                    336 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,209 mL
                                                                  1,463 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed, slowed responses
   but is responsive
   Labs / Radiology
   10.4 g/dL
   395 K/uL
   94 mg/dL
   1.4 mg/dL
   18 mEq/L
   3.7 mEq/L
   72 mg/dL
   105 mEq/L
   136 mEq/L
   30.9 %
   11.5 K/uL
        [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
                             [**2179-3-9**]  02:37 PM
                             [**2179-3-10**]  03:04 AM
                             [**2179-3-10**]  04:24 PM
                             [**2179-3-11**]  04:12 AM
                             [**2179-3-11**]  02:48 PM
                             [**2179-3-12**]  04:04 AM
   WBC
   1.0
   1.0
   1.2
   3.0
   11.5
   Hct
   32.3
   31.3
   30.7
   35.3
   30.9
   Plt
   292
   268
   311
   330
   395
   Cr
   1.6
   1.5
   1.3
   1.1
   0.9
   1.2
   1.3
   1.4
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   87
   95
   96
   88
   86
   85
   94
   Other labs: PT / PTT / INR:11.3/34.4/0.9, CK / CKMB /
   Troponin-T:16/2/<0.01, Amylase / Lipase:18/9, Differential-Neuts:54.0
   %, Band:28.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:0.0 %, Ca++:9.6 mg/dL,
   Mg++:1.9 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
   69 yo female with metastatic breast cancer now admitted with worsening
   overall function and has been found to have significant hypovolemia in
   addition to persistent ascites and now has had catheter placed for
   palliative support of management of ascites in the setting of known
   peritoneal studding from metastatic cancer.
   1)Ascites-
   -Zofran in place
   -Catheter placed and 1 liter removed
   -Intermittent drainage as needed
   -Will send fluid for cell count
   2)Tachycardia-patient maintains sinus tachycardia with pain, anxiety,
   ascites all driving persistent tachycardia at this time with hypoxia
   resolved.  We do have concern for possible infection with rising WBC
   count for possible infection.
   -C. diff to be sent
   -Fluid for cell count
   -Will start with empiric antibiotics if fever clearly seen which is not
   in evidence at this time
   3)Breast Cancer-
   -Continue with standing and PRN pain control
lidoacine patch
   -Will need continued nutritional support to be tightly monitored
   -Drainage in place for ascites
   -Patient with concern for limited duration of life going forward given
   the slow trend to worse over time without single, reversible element
   seen
   4)Dyspnea
This would appear to be multifactorial.   We had some concern
   for PE raised by admitting team but have LENI negative.  We attempted
   V/Q scan but patient unable.  CTA carries substantial risk for patient
   in terms of renal function and patient not able to lie flat and would
   require intubation for conduct of test in the setting of low
   probability for PE and with real concern for alternative explanation of
   dyspnea and tachycardia with significant chest wall restriction with
   ascites and metastatic cancer.  The argument against significant PE is
   also in large part made by the fact that patient did not have and does
   not maintain significant hypoxia with room air at this time.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2179-3-9**] 12:10 AM
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/DNI
   Disposition :To Floor
   Total time spent: 36

2179-03-13 09:01:00 Physician Resident Progress Note
Chief Complaint: dyspnea
   24 Hour Events:
   - palliative care had family meeting, family agreed to no more ICU
   admissions & comfort care (with vital sign checks & abx)
   - called out to 7 [**Hospital Ward Name 203**], but no beds
   - positive for SBP, treating with ceftriaxone & albumin
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2179-3-12**] 11:59 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-3-13**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 122 (109 - 130) bpm
   BP: 94/55(63) {81/44(54) - 115/75(82)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 51.5 kg
   Height: 60 Inch
           Total In:
                                                                  3,063 mL
                                                                    317 mL
   PO:
                                                                     60 mL
           TF:
   IVF:
                                                                  2,652 mL
                                                                    268 mL
   Blood products:
                                                                    351 mL
                                                                     49 mL
   Total out:
                                                                  2,640 mL
                                                                    370 mL
   Urine:
                                                                    640 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
                                                                  2,000 mL
   Balance:
                                                                    423 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   355 K/uL
   7.7 g/dL
   86 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.1 mEq/L
   73 mg/dL
   114 mEq/L
   145 mEq/L
   24.2 %
   7.5 K/uL
        [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
                             [**2179-3-9**]  02:37 PM
                             [**2179-3-10**]  03:04 AM
                             [**2179-3-10**]  04:24 PM
                             [**2179-3-11**]  04:12 AM
                             [**2179-3-11**]  02:48 PM
                             [**2179-3-12**]  04:04 AM
                             [**2179-3-12**]  12:53 PM
                             [**2179-3-13**]  05:12 AM
   WBC
   1.0
   1.0
   1.2
   3.0
   11.5
   7.5
   Hct
   32.3
   31.3
   30.7
   35.3
   30.9
   24.2
   Plt
   292
   268
   311
   [**Telephone/Fax (3) 14070**]
   355
   Cr
   1.6
   1.5
   1.3
   1.1
   0.9
   1.2
   1.3
   1.4
   1.3
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   87
   95
   96
   88
   86
   85
   94
   86
   Other labs: PT / PTT / INR:13.0/50.1/1.1, CK / CKMB /
   Troponin-T:16/2/<0.01, Amylase / Lipase:18/9, Differential-Neuts:54.0
   %, Band:28.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:476
   mg/dL, Ca++:10.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Microbiology: Peritoneal fluid gram stain
   Assessment and Plan
   69yo F with h/o metastatic breast CA admitted with dyspnea,
   tachycardia, hyponatremia, and hypotension.
   # SBP: Patient with new leukocytosis to 11.5 yesterday, peritoneal
   fluid from catheter demonstrated WBC 4260, 92% PMNs. Afebrile, no
   abdominal pain, diarrhea/nausea/vomiting, but not taking PO
   Receiving antibiotics & albumin.  WBC down to 7.5 today.
   - Continue Ceftriaxone 1g q24H
   - Albumin tomorrow 1g/kg
   - F/u blood cx
   # Goals of care: Family had meeting with palliative care yesterday,
   agreed to make patient comfort measures, save for treatment for SBP.
   Will transition to hospice.
   - Called out to OMED today.
   - SW consult
   # Tachycardia: Patient with baseline heart rate 110s-120s per notes
   from recent admission. This may be secondary to pain, malignancy.
   Current at baseline.
   - IVF bolus PRN
   - f/u blood cultures
   - Treat SBP
   # Hypotension: Improves transiently with IVF so likely [**1-26**] hypovolemia,
   but despite significant IVF, blood pressure downtrending due to 3^rd
   spacing of fluids. This may be exacerbated by poor nutrition -> low
   albumin & low oncotic pressure.
   - Monitor
   - IVF PRN
   # Acute renal failure: 1.3 despite IVF
s, likely [**1-26**] third spacing of
   fluids with ascites.
   - Monitor creatinine daily
   - Dose meds for GFR
   - Avoid nephrotoxins
   # Dyspnea: Resoved. Likely multifactorial given deconditioning,
   ascites, and abdominal pain. S/p peritoneal catheter placement
   # Hyponatremia: Resolved with fluid resuscitation.
   # Decubitus Ulcer: Stage III 1.5 cm decubitus sacral ulcer. Wound care
   are following.
   -Appreciate wound care recs and will follow their instructions.
   # Breast Cancer: Oncology is following and will take her on OMED
   service when she is stable enough to be on the floor.
   - Follow up onc recs
   # Oral thrush:
   - Continue nystatin for thrush and morphine IR for pain control
   # Hypothyroidism: TSH 2.6.
   - Continue Levothyroxine
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:  None
   Lines:
   Indwelling Port (PortaCath) - [**2179-3-9**] 12:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Family
   Code status:  DNR/DNI
   Disposition: to OMED

2179-03-13 10:26:00 Physician Attending Progress Note
Chief Complaint: Hypotension and dyspnea, metastatic breast cancer
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PARACENTESIS - At [**2179-3-12**] 10:00 AM
   placement of  pleurex cath to abd. for frequent paracentesis.
   done in IR  WBC 4260, 92 pmns, started on ceftriaxone and albumin
 EKG - At [**2179-3-12**] 12:26 PM
 CALLED OUT
   Leukocytosis
   BP ranging from 80-90's sysolic
   Unable to take po's given altered mental status, lethargy
   Emesis this am, no coffee grounds/blood
   History obtained from Patient
   Allergies:
   Naproxen
   facial swelling
   Codeine
   Nausea/Vomiting
   Aspirin
   swelling/edema;
   Oxycontin (Oral) (Oxycodone Hcl)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Ceftriaxone - [**2179-3-12**] 11:59 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Gastrointestinal: Emesis
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2179-3-13**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 122 (109 - 130) bpm
   BP: 94/55(63) {81/44(54) - 115/75(82)} mmHg
   RR: 21 (15 - 26) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 51.9 kg (admission): 51.5 kg
   Height: 60 Inch
           Total In:
                                                                  3,063 mL
                                                                    329 mL
   PO:
                                                                     60 mL
           TF:
   IVF:
                                                                  2,652 mL
                                                                    280 mL
   Blood products:
                                                                    351 mL
                                                                     49 mL
   Total out:
                                                                  2,640 mL
                                                                    370 mL
   Urine:
                                                                    640 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
                                                                  2,000 mL
   Balance:
                                                                    423 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, tender only around catheter insertion site
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, somnolent but arousable
   Labs / Radiology
   7.7 g/dL
   355 K/uL
   86 mg/dL
   1.3 mg/dL
   22 mEq/L
   4.1 mEq/L
   73 mg/dL
   114 mEq/L
   145 mEq/L
   24.2 %
   7.5 K/uL
         [image002.jpg]
                             [**2179-3-9**]  12:28 AM
                             [**2179-3-9**]  04:20 AM
                             [**2179-3-9**]  02:37 PM
                             [**2179-3-10**]  03:04 AM
                             [**2179-3-10**]  04:24 PM
                             [**2179-3-11**]  04:12 AM
                             [**2179-3-11**]  02:48 PM
                             [**2179-3-12**]  04:04 AM
                             [**2179-3-12**]  12:53 PM
                             [**2179-3-13**]  05:12 AM
   WBC
   1.0
   1.0
   1.2
   3.0
   11.5
   7.5
   Hct
   32.3
   31.3
   30.7
   35.3
   30.9
   24.2
   Plt
   292
   268
   311
   [**Telephone/Fax (3) 14070**]
   355
   Cr
   1.6
   1.5
   1.3
   1.1
   0.9
   1.2
   1.3
   1.4
   1.3
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   87
   95
   96
   88
   86
   85
   94
   86
   Other labs: PT / PTT / INR:13.0/50.1/1.1, CK / CKMB /
   Troponin-T:16/2/<0.01, Amylase / Lipase:18/9, Differential-Neuts:54.0
   %, Band:28.0 %, Lymph:5.0 %, Mono:9.0 %, Eos:0.0 %, Fibrinogen:476
   mg/dL, Ca++:10.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 PERITONITIS, SPONTANEOUS BACTERIAL (SBP):  Started on ceftriaxone and
   albumin. WBC trending down today.  No abdominal pain elicited on exam.
   Follow-up on cultures.
 CANCER (MALIGNANT NEOPLASM), BREAST:  Metastatic.
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Lidocaine patch.  Change to
   IV morphine as unable to take po's.
 HYPOTENSION (NOT SHOCK):  Had been responsive to IVFs.
   Family meeting documented with palliative care.  Following
   recommendations of changing goals of care to comfort. Decision was made
   to continue with treatment for peritonitis as above.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2179-3-9**] 12:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to floor
   Total time spent: 30 minutes